US08609669B2
2-(4-Chloro-3-methylphenyl)malononitrile
A solution of malononitrile (1.79 mL, 28.4 mmol) in THF (6 mL) was added dropwise over 25 minutes to a vigorously stirred, ice-cooled suspension of NaH (60% dispersion in mineral oil, 1.70 g, 42.6 mmol) in THF (40 mL) under a nitrogen atmosphere. The resulting slurry was allowed to warm to room temperature. Meanwhile tris(dibenzylideneacetone)dipalladium(0) (167 mg, 0.182 mmol) and 1,3-bis(2,6-diisopropylphenyl)imidazolium chloride (151 mg, 0.36 mmol) were combined in THF (5 mL) and warmed to 60° C. for 10 minutes, then cooled to room temperature. This solution and 2-chloro-5-iodotoluene (3.66 g, 14.2 mmol) were added to the malononitrile solution with THF (40 mL) rinse, and the grey mixture was heated at reflux under nitrogen for 37 hours, then cooled to room temperature and concentrated under vacuum. Water (50 mL) was added to the residue and the mixture was extracted with CH2Cl2 (2×40 mL). The aqueous phase (pH˜10) was made acidic (pH˜3) by addition of 10% HCl (10 mL) and extracted again with CH2Cl2 (2×40 mL). The combined organic extract was concentrated and the residual red-brown oily residue was purified by flash chromatography (silica gel, eluted with hexanes-EtOAc, 90:10-70:30) to provide the title compound as a tan solid. 1H NMR (300 MHz, CDCl3) δ ppm 2.44 (s, 3H) 5.00 (s, 1H) 7.27 (dd, J=8.1, 2.4 Hz, 1H) 7.37 (d, J=2.4 Hz, 1H) 7.47 (d, J=8.1 Hz, 1H).

reactant | malononitrile | 28.4 mmol, 1.79 mL | C(CC#N)#N | C3H2N2
reactant | NaH | 42.6 mmol, 1.70 g | [H-].[Na+]
reactant | 1,3-bis(2,6-diisopropylphenyl)imidazolium chloride | 0.36 mmol, 151 mg | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[N+]1=CN(C=C1)C1=C(C=CC=C1C(C)C)C(C)C
reactant | 2-chloro-5-iodotoluene | 14.2 mmol, 3.66 g | ClC1=C(C=C(C=C1)I)C | C7H6ClI
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.182 mmol, 167 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-(4-Chloro-3-methylphenyl)malononitrile | ClC1=C(C=C(C=C1)C(C#N)C#N)C | C10H7ClN2
